US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 2-fluoro-phenylboronic acid to give [1-(2-fluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 349(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 2-fluoro-phenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | [1-(2-fluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | FC1=C(C=CC=C1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C20H17FN4O
